US05872207
A solution of 3-oxohexane-1,6-dioic acid diethyl ester (78.88 g), resorcinol (40.19 g) and ethanol (1 L) was saturated with hydrogen chloride gas during two hours at 0° C., tightly stoppered, let stand at room temperature over the weekend, shown by thin layer chromatography to contain unreacted 3-oxohexane-1,6-dioic acid diethyl ester, saturated again with hydrogen chloride gas during 45 minutes at 0° C., and let stand overnight at room temperature. Although thin layer chromatography still showed that the reaction was incomplete, the solution was partially (800 mL) stripped of volatiles and poured into ice-water. The resulting solid was collected by filtration and ethanol (300 mL) and aqueous sodium hydroxide solution (2.5N, 350 mL) were added. The mixture was stirred at room temperature and, when the reaction was complete, poured into hydrochloric acid (2N, 500 mL). A suspension of the resulting solid in methanol (300 mL) was stirred for 15 minutes at room temperature, cooled on ice and filtered. The resulting solid was washed with ether and dried affording 3-(7-hydroxy-4-coumarinyl)propionic acid (62.4 g, 73% yield).

reactant | 3-oxohexane-1,6-dioic acid diethyl ester | 78.88 g | C(C)OC(CC(CCC(=O)OCC)=O)=O | C10H16O5
reactant | resorcinol | 40.19 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 1 L | C(C)O | C2H6O
product | 3-(7-hydroxy-4-coumarinyl)propionic acid | 62.4 g, 73% yield | OC1=CC=C2C(=CC(OC2=C1)=O)CCC(=O)O | C12H10O5
